US07074819B2
Step 3) Synthesis of (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[4-(4-piperidylbutyloxy)phenyl]chroman
A mixture of (3RS,4RS)-7-methoxymethoxy-3-(4-(methoxymethoxy)phenyl)-3-methyl-4-[4-(4-piperidylbutyloxy)phenyl]chroman (325 mg, 0.56 mmol) p-toluenesulfonic acid (1.42 g, 5.6 mmol) and methanol was stirred at reflux for 12 h. After cooling, the mixture was extracted with ethyl acetate, dried over MgSO4, and filtered. The filtrate was evaporated under reduced pressure, and the concentrate thus obtained was subjected to silica gel column chromatography (CH2Cl2:methanol=10:1) to give 160 mg (yield. 58%) of a white foamy solid.

reactant | (3RS,4RS)-7-methoxymethoxy-3-(4-(methoxymethoxy)phenyl)-3-methyl-4-[4-(4-piperidylbutyloxy)phenyl]chroman | 0.56 mmol, 325 mg | COCOC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)OCOC)C1=CC=C(C=C1)OCCCCC1CCNCC1 | C35H45NO6
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[4-(4-piperidylbutyloxy)phenyl]chroman | OC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)O)C1=CC=C(C=C1)OCCCCC1CCNCC1 | C31H37NO4
